US04963543
To a solution of (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2 g) were successively added triethylamine (0.82 ml) and methanesulfonyl chloride (0.42 ml) under ice-cooling with stirring, and the mixture was stirred at the same temperature for 1 hour. The reaction mexture was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give (2S,4R)-2-methanesulfonylaminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.15 g).

reactant | (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2 g | NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H31N3O5Si
reactant | methanesulfonyl chloride | 0.42 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 0.82 ml | C(C)N(CC)CC | C6H15N
product | (2S,4R)-2-methanesulfonylaminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.15 g | CS(=O)(=O)NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H33N3O7SSi
